US07713994B2
(4E)-6-bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione (0.18 g, 0.64 mmol) and 3-hydroxy-4-methoxy-benzoic acid hydrazide hydrochloride (0.18 g, 0.64 mmol) were coupled in N,N-dimethylformamide (5 mL) with triethylamine (0.30 mL) at 100° C. After cooling to room temperature and addition of 5% aqueous potassium hydrogen sulfate solution, the solid material is collected by Buchner filtration, washed with diethyl ether, water, and methanol, and then dried under house vacuum to give N′-[(Z)-(6-bromo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]-3-hydroxy-4-methoxybenzohydrazide as a tan powder.

reactant | (4E)-6-bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 0.64 mmol, 0.18 g | BrC=1C=C2\C(\C(NC(C2=CC1)=O)=O)=C/OC | C11H8BrNO3
reactant | 3-hydroxy-4-methoxy-benzoic acid hydrazide hydrochloride | 0.64 mmol, 0.18 g | Cl.OC=1C=C(C(=O)NN)C=CC1OC
reactant | triethylamine | 0.30 mL | C(C)N(CC)CC | C6H15N
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N′-[(Z)-(6-bromo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methyl]-3-hydroxy-4-methoxybenzohydrazide | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NNC(C1=CC(=C(C=C1)OC)O)=O | C18H14BrN3O5
